US03959309
Following a reductive procedure similar to that described in Example 260 but substituting for 3-(N-methylbenzamido-6,8-difluoro-1,2,3,4-tetrahydrocarbazole an equivalent amount of 3-acetamido-8-fluoro-1,2,3,4-tetrahydrocarbazole there can be obtained 3-(ethylamino)-8-fluoro-1,2,3,4-tetrahydrocarbazole.

reactant | N-methylbenzamido-6,8-difluoro-1,2,3,4-tetrahydrocarbazole | CN1C2=C(C=C(C=C2C=2CCCC(C12)NC(C1=CC=CC=C1)=O)F)F | C20H18F2N2O
reactant | 3-acetamido-8-fluoro-1,2,3,4-tetrahydrocarbazole | C(C)(=O)NC1CCC=2NC3=C(C=CC=C3C2C1)F | C14H15FN2O
product | 3-(ethylamino)-8-fluoro-1,2,3,4-tetrahydrocarbazole | C(C)NC1CCC=2NC3=C(C=CC=C3C2C1)F | C14H17FN2
